Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ year old female past medical history recurrent pancreatitis 
thought to be gallstone pancreatitis, s/p cholecystectomy ___, 
cystic pancreatic mass found on MRCP ___, for which she 
underwent EUS ___, presenting with abdominal pain. 
Epigastric and generalized abdominal pain was reported, which 
started at 3 AM, and was constant, sharp, and associated with 
nausea.  She denies diarrhea, fevers, dysuria, chest pain, 
dyspnea. She states this feels similar to prior episodes of 
pancreatitis.

In the ED, initial vitals were 97.1 58 173/74 18 100% on RA.  
Labs showed lipase of 3510.  The remainder of labs were 
unremarkable, HCt 37.  She received 1 liter NS, morphine 5 mg IV 
x 2, and ondansetron 4 mg IV x 1.  CT A/P showed findings 
compatible with pancreatitis, with some heterogeneous 
enhancement at the neck of the pancreas which could be due to 
edema in the setting of interstitial edematous pancreatitis 
noting that necrosis can be underestimated in the acute setting. 
 Vitals on transfer were 97.7 60 126/57 18 97% on RA.  

Currently, the patient has ___ abdominal pain, no nausea, no 
fevers.
 
 
Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. Denies diarrhea, constipation. No 
recent change in bowel or bladder habits. No dysuria. Denies 
arthralgias or myalgias. Ten point review of systems is 
otherwise negative.  
 
Past Medical History:
1.  Hypothyroidism.
2.  Acute pancreatitis x2 (___)
3.  cholecystectomy ___
 
Social History:
___
Family History:
No history of pancreas, GI or liver issues.
 
Physical Exam:
Admission:
Vitals: T: 97.8 BP: 131/64 P: 62 R: 18 O2: 100% on RA  
GEN: Alert, oriented to name, place and situation. Fatigued 
appearing but comfortable, no acute signs of distress.  
HEENT: NCAT, Pupils equal and reactive, sclerae anicteric, OP 
clear, MMM.  
Neck: Supple, no JVD
Lymph nodes: No cervical, supraclavicular LAD.  
CV: S1S2, reg rate and rhythm, no murmurs, rubs or gallops.  
RESP: Good air movement bilaterally, no rhonchi or wheezing.  
ABD: Soft, mildly tender, non-distended, + bowel sounds.  
EXTR: No lower leg edema, no clubbing or cyanosis  
DERM: No active rash.  
Neuro: non-focal.  
PSYCH: Appropriate and calm.  

 
Pertinent Results:
Admission:
___ 07:30PM BLOOD WBC-7.2# RBC-4.22 Hgb-12.8 Hct-37.9 
MCV-90 MCH-30.3 MCHC-33.8 RDW-13.2 RDWSD-43.3 Plt ___
___ 07:30PM BLOOD Neuts-60.6 ___ Monos-8.2 Eos-1.7 
Baso-0.8 Im ___ AbsNeut-4.39 AbsLymp-2.05 AbsMono-0.59 
AbsEos-0.12 AbsBaso-0.06
___ 07:30PM BLOOD ___ PTT-30.9 ___
___ 07:30PM BLOOD Glucose-101* UreaN-7 Creat-0.5 Na-139 
K-3.9 Cl-100 HCO3-27 AnGap-16
___ 07:30PM BLOOD ALT-28 AST-22 AlkPhos-95 TotBili-0.7
___ 07:30PM BLOOD Albumin-4.2 Calcium-9.7 Phos-3.9 Mg-2.1
___ 07:30PM BLOOD Lipase-3510*
___ 07:30PM BLOOD cTropnT-<0.01
___ 07:41PM BLOOD Lactate-1.0

___ CT Scan:
Findings compatible with pancreatitis.  Some heterogeneous 
enhancement at the neck of the pancreas which could be due to 
edema in the setting of 
interstitial edematous pancreatitis noting that necrosis can be 
underestimated in the acute setting.  Moderate surrounding 
inflammatory changes with a small amount of surrounding fluid. 

**************
outpatient EUS ___:
CYTOLOGY REPORT - Final
SPECIMEN(S) SUBMITTED: FINE NEEDLE ASPIRATION, PANCREAS, CYST

DIAGNOSIS:
Fine needle aspirte, Pancreas cyst, uncinate:
ATYPICAL.
Abundant mucinous material and small intestinal epithelium.
Note: The significance of this mucinous material as to whether 
it is part of a pancreatic lesion or
gastrointestinal contamination cannot be determined. 

 
Brief Hospital Course:
___ history of recurrent pancreatitis thought to be gallstone 
pancreatitis, s/p cholecystectomy ___, cystic pancreatic mass, 
presenting with third episode acute pancreatitis.
 
# Acute Pancreatitis, recurrent: Patient has had 2 prior 
episodes of pancreatitis, the first in ___ thought to be 
related to gall stones for which CCY was performed in ___. 
Her second episode was at ___ in ___. ___ showed 
cystic pancreatic lesions for which EUS and FNA was performed 
with cytology showing atypical cells with abundant mucinous 
material and small intestinal epithelium. Patient presents this 
time again with elevated lipase, epigastric pain and CT evidence 
of acute pancreatitis. Etiology is still uncertain. No heavy 
alcohol use. Other LFTs normal pointing away from biliary 
process. Triglycerides normal. Pain resolved and diet advanced. 
GI consulted and recommended outpt f/u.
 
# Hypothyroidism: continue home levothyroxine

# Code Status: Full
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 50 mcg PO DAILY 

 
Discharge Medications:
1. Levothyroxine Sodium 50 mcg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
recurrent acute pancreatitis

Secondary:
hypothyroidism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,
You were admitted with recurrent pancreatitis, the cause of 
which remains unclear. 
 
Followup Instructions:
___